US08580780B2
4-(2-Methylthiazol-4-yl)-benzonitrile:
Suspend 4-cyanophenacyl bromide (515 mg, 2.23 mmol) in ethanol (15 mL). Add thioacetamide (171 mg, 2.23 mmol) and sodium bicarbonate (187 mg, 2.23 mmol) and heat the mixture under reflux for 2 h. Concentrate in vacuo and dissolve the residue in DCM. Wash the organic fraction with water, dry over Na2SO4, filter and concentrate to give a solid. Suspend the solid in ether/hexane and filter under vacuum washing with hexane to obtain the desired intermediate as a white solid (415 mg, 93%). GC-MS m/z: 200 (M+).

reactant | 4-cyanophenacyl bromide | 2.23 mmol, 515 mg | C(#N)C1=CC=C(C(CBr)=O)C=C1 | C9H6BrNO
reactant | thioacetamide | 2.23 mmol, 171 mg | C(C)(=S)N | C2H5NS
reactant | sodium bicarbonate | 2.23 mmol, 187 mg | C([O-])(O)=O.[Na+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | ether hexane | CCOCC.CCCCCC
product | 4-(2-Methylthiazol-4-yl)-benzonitrile | 415 mg, 93% | CC=1SC=C(N1)C1=CC=C(C#N)C=C1 | C11H8N2S
